US05576343
33.5 g of 6-methoxy-2-tetralone was dissolved in 27.6 ml of ethanol, followed by subsequently adding 37.8 ml of ethyl orthoformate and one drop of concentrated sulfuric acid. The mixture thus prepared was stirred at 100° C. for 4 hours. After distilling off the solvent under a reduced pressure, the resulting residue was subjected to silica gel column chromatography using chloroform as an eluant. Fractions of interest were pooled and concentrated to collect precipitated crystals, thereby obtaining 5.82 g of 3,4-dihydro-2-ethoxy-6-methoxynaphthalene.

reactant | 6-methoxy-2-tetralone | 33.5 g | COC=1C=C2CCC(CC2=CC1)=O | C11H12O2
reactant | ethyl orthoformate | 37.8 ml | C(OCC)([O-])[O-]
reactant | ethanol | 27.6 ml | C(C)O | C2H6O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 3,4-dihydro-2-ethoxy-6-methoxynaphthalene | 5.82 g | C(C)OC1=CC2=CC=C(C=C2CC1)OC | C13H16O2
